US07399780B2
2-Hydroxy-3-[5-(morpholin-4-ylsulfonyl)pyridin-2-yl]-1H-indole-5-carbonitrile
The title compound was prepared as described for Example 101 using 4-[(6-chloropyridin-3-yl)sulfonyl]morpholine and 5-cyanooxindole. The reaction mixture was quenched with water and the solvents were evaporated in vacuo. Water was added and the mixture was filtered. The solid material was washed with water, methanol, ethyl acetate and diethyl ether to give the title compound. Yield: 44%: MS (ES) m/z 385 (M++1).

reactant | 4-[(6-chloropyridin-3-yl)sulfonyl]morpholine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCOCC1 | C9H11ClN2O3S
reactant | 5-cyanooxindole | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
product | 2-Hydroxy-3-[5-(morpholin-4-ylsulfonyl)pyridin-2-yl]-1H-indole-5-carbonitrile | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCOCC1)C#N | C18H16N4O4S
